US06242422B1
(3RS)-3-[N-((1-Naphthyloxy)Acetyl)Valinyl]Amino-5-Fluoro-4-Oxopentanoic Acid, tert-Butyl Ester
To a solution of (3RS,4RS)-3-[N-((1-naphthyloxy)acetyl)valinyl]amino-5-fluoro-4-hydroxypentanoic acid, tert-butyl ester (0.163 g, 0.315 mmol) and N-methylmorpholine N-oxide (0.144 g, 0.98 mmol) in CH2Cl2 (5.0 mL) at room temperature was added activated 4 Å molecular sieves. After stirring at room temperature for 20 min, the mixture was treated with tetra(n-propyl)ammonium perruthenate (0.011 g). After stirring at room temperature for 3.5 hrs, the mixture through Celite and evaporated to dryness. The residue was purified by flash chromatography on silica gel eluting with EtOAc-hexane (3:4) to give the title compound (0.124 g, 40%) as a pale yellow oil. TLC(MeOH—CH2Cl2; 1:9) Rf=0.71. 1H NMR (CDCl3): δ8.27-8.23 (m, 1 H), 7.86-7.83 (m, 1 H), 7.59-7.51 (m, 3 H), 7.42-7.36 (m,1 H), 7.23-7.19 (m, 1H), 7.05-6.95 (m, 1H), 6.84 (d, 1H, J=7.7 Hz), 5.26-4.97 (m, 2 H), 4.93-4.89 (m, 1 H), 4.76 (s, 2 H), 4.45-4.35 (m, 1H), 3.05-2.76 (m, 2H), 1.42 (d, 9H, J=4.1 Hz), 1.02-0.87 (m, 6H).

reactant | (3RS,4RS)-3-[N-((1-naphthyloxy)acetyl)valinyl]amino-5-fluoro-4-hydroxypentanoic acid, tert-butyl ester | 0.315 mmol, 0.163 g | C1(=CC=CC2=CC=CC=C12)OCC(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C26H35FN2O6
reactant | N-methylmorpholine N-oxide | 0.98 mmol, 0.144 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
catalyst | tetra(n-propyl)ammonium perruthenate | 0.011 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | (3RS)-3-[N-((1-Naphthyloxy)Acetyl)Valinyl]Amino-5-Fluoro-4-Oxopentanoic Acid, tert-Butyl Ester | 0.124 g, 40% | C1(=CC=CC2=CC=CC=C12)OCC(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)=O | C26H33FN2O6
